US08604244B2
A solution of ethyl (2,2-diethoxyethyl)carbamate (2.0 g, 0.0097 mol.)) in 5 mL of THF at 0° C. was added HCl (10 mL, 2.0 eq) and then H2O (0.17 mL). The solution was then stirred for 4 h at 0° C. the solvent was evaporated at room temperature and solid NaHCO3 was added, filtration and concentration to give after silica gel chromatography ethyl (2-oxoethyl)carbamate as a colorless oil (0.36 g, 28%). 1HNMR (400 MHz), CDCl3: δ 1.19 (t, J=7.2 Hz, 3H); 4.05-4.10 (m, 4H); 5.44 (sbr, 1H); 9.60 (s, 1H).

reactant | ethyl (2,2-diethoxyethyl)carbamate | 0.0097 mol, 2.0 g | C(C)OC(CNC(OCC)=O)OCC | C9H19NO4
reactant | HCl | 10 mL, 2.0 eq | Cl | ClH
reactant | H2O | 0.17 mL | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | ethyl (2-oxoethyl)carbamate | 0.36 g, 28% | O=CCNC(OCC)=O | C5H9NO3
